US06943159B1
3-Phenyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide
2-Aminobenzenesulfonamide was transformed by Method G (using benzaldehyde). M.p. 125.5-128.5° C.

reactant | 2-Aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 3-Phenyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide | C1(=CC=CC=C1)C1NS(C2=C(N1)C=CC=C2)(=O)=O | C13H12N2O2S
